US04379154
A 10 N aqueous solution of sodium hydroxide (50 cc) is added, in the course of 10 minutes and whilst allowing the temperature to rise to 14° C. to a solution, cooled to 12° C. of 2-(pyrid-3-yl-methyl)isothiourea monohydrochloride (100 g) in distilled water (250 cc). After heating for 30 minutes at a temperature of 100° C. and then cooling to 12° C. a 10 N aqueous solution of sodium hydroxide (60 cc) is added dropwise and in the course of 10 minutes. 1-Bromo-3-chloropropane (82 g) is then added, whilst stirring, and stirring is continued for 20 hours at a temperature of about 20° C. The reaction mixture is then extracted three times with methylene chloride (430 cc in total). The organic extracts are combined and washed with distilled water (250 cc) and then dried over anhydrous magnesium sulphate. After filtration, the solution obtained is poured onto neutral silica gel (100 g) contained in a column of diameter 3 cm; the column is then eluted with methylene chloride (2300 cc). The first fraction (700 cc) is discarded; the second fraction (1600 cc) is collected and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. Pyrid-3-yl-methyl 3-chloropropyl sulphide (59 g) is thus obtained in the form of a yellow oil.

reactant | sodium hydroxide | 50 cc | [OH-].[Na+]
reactant | 2-(pyrid-3-yl-methyl)isothiourea monohydrochloride | 100 g | Cl.N1=CC(=CC=C1)CSC(N)=N
reactant | sodium hydroxide | 60 cc | [OH-].[Na+]
reactant | 1-Bromo-3-chloropropane | 82 g | BrCCCCl | C3H6BrCl
solvent | water | 250 cc | O | H2O
product | Pyrid-3-yl-methyl 3-chloropropyl sulphide | 59 g | ClCCCSCC=1C=NC=CC1 | C9H12ClNS
